US04599334
21.2 g of sodium fluoride are added to a solution of 107.8 g of ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate in 400 ml of anhydrous dimethylformamide. The reaction mixture is then stirred under reflux for 2 hours and poured hot onto ice. The precipitate is filtered off with suction, thoroughly washed with water, and dried over calcium chloride at 100° C. in vacuo. 91.2 g of ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate of melting point 167°-168° C. are obtained.

reactant | sodium fluoride | 21.2 g | [F-].[Na+]
reactant | ethyl 2-(2,3,4,5-tetrafluorobenzoyl)-3-cyclopropylaminoacrylate | 107.8 g | FC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1F)F)F | C15H13F4NO3
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | ethyl 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 91.2 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C15H12F3NO3
